US06252082B1
Methyl 4-[(4-fluorophenyl)methyl]-6-methyl-3-nitro-2-oxo-1,2-dihydropyridine-1-acetate
This compound is prepared from 11 g (29.4 mmol) of methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate and 10 g (52.9 mmol) of (4-fluorophenyl)-methyl bromide according to the method described in 1.5.

reactant | methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate | 29.4 mmol, 11 g | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C10H9F3N2O8S
reactant | (4-fluorophenyl)-methyl bromide | 52.9 mmol, 10 g | FC1=CC=C(C=C1)CBr | C7H6BrF
product | Methyl 4-[(4-fluorophenyl)methyl]-6-methyl-3-nitro-2-oxo-1,2-dihydropyridine-1-acetate | FC1=CC=C(C=C1)CC1=C(C(N(C(=C1)C)CC(=O)OC)=O)[N+](=O)[O-] | C16H15FN2O5
